US06417200B1
A) 2-(3-cyanobenzyloxy)-N-(4-methoxybenzoyl) aniline
Using a procedure similar to Example 33A and 33B except starting from 2-hydroxyaniline, p-anisoyl chloride and 3-cyanobenzyl bromide, the title compound was obtained as a solid (700 mg, 48%); MS(FD): 358.1.

reactant | 2-hydroxyaniline | OC1=C(N)C=CC=C1 | C6H7NO
reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 3-cyanobenzyl bromide | C(#N)C=1C=C(CBr)C=CC1 | C8H6BrN
product | 2-(3-cyanobenzyloxy)-N-(4-methoxybenzoyl) aniline | C(#N)C=1C=C(COC2=C(NC(C3=CC=C(C=C3)OC)=O)C=CC=C2)C=CC1 | C22H18N2O3
